US04886339
4-Dibutylaminobenzaldehyde
A 20 ml sample of N,N-dimethylformamide (DMF) was cooled to 0° C. for 1 hour and at 25° C. for 1 hour, then N,N-dibutylaniline was added slowly. The reaction mixture was heated at 90° C. for 16 hours, then cooled and poured onto 50 g of ice. A brown oil separated which was taken up in dichloromethane. The extract was washed with saturated aqueous bicarbonate then with water containing a little ammonium chloride, dried (MgSO4), and the solvent was removed at reduced pressure. The brown, oily residue was distilled in vacuo to product 6.65 g (58%) of a yellow liquid.

reactant | N,N-dibutylaniline | C(CCC)N(C1=CC=CC=C1)CCCC | C14H23N
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Dibutylaminobenzaldehyde | C(CCC)N(C1=CC=C(C=O)C=C1)CCCC | C15H23NO
